US08221905B2
The 500 mL round-bottom flask, equipped with magnetic stirrer and reflux condenser was charged with 2-(2-(methylthio)phenyl)pyridin-3-amine (8.42 g, 39 mmol), 70 mL THF, 70 mL HBF4 (50% in water) and 40 mL H2O. Reaction mixture was cooled to −10° C., and solution of sodium nitrite (5.6 g in 20 mL water) was added dropwise. Reaction mixture was warmed gradually to room temperature and stirred overnight. The reaction mixture was diluted with 500 mL of water and extracted with ethyl acetate (4×50 mL). Organic fractions were combined, dried over sodium sulfate and evaporated, the residue was subjected to column chromatography on silica gel with hexane/ethyl acetate 9/1 mixture, providing aza-dibenzothiophene (3.5 g, colorless needles from hexane/ethyl acetate).

reactant | 2-(2-(methylthio)phenyl)pyridin-3-amine | 39 mmol, 8.42 g | CSC1=C(C=CC=C1)C1=NC=CC=C1N | C12H12N2S
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | HBF4 | 70 mL | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | 20 mL, 5.6 g | N(=O)[O-].[Na+]
solvent | water | 500 mL | O | H2O
solvent | H2O | 40 mL | O | H2O
product | aza-dibenzothiophene | 3.5 g | N1=CC=CC=2SC3=C(C21)C=CC=C3 | C11H7NS
